US09029189B2
Step 1.3. 2,2,6,6-Tetramethyl-2,3,5,6-tetrahydro-1H-imidazo[1,2-a]imidazole (II)
A 1 L three-necked flask was fitted with a condenser, which was then vented through an empty flask into a bubbler filled with 1 M KOH. A hydrogen chloride gas generation apparatus was also connected to the reaction flask through a sparging tube. The gas generation apparatus consisted of a 100 mL three-necked flask with an additions funnel and an outlet to a drying tube filled with calcium chloride. A purified nitrogen supply was fed into the top of the additions funnel. Into the reaction flask, 3.073 g (19.3 mmol) of di-(2-aminoisobutyl)amine was placed. This was dissolved in 900 mL of toluene and stirred magnetically. The gas generation apparatus was charged with 18.8 g (322 mmol) of sodium chloride, also stirred magnetically. The system was purged with nitrogen for approximately thirty minutes. Carbon disulfide (1.5 mL, 24.8 mmol) was added to the reaction solution which caused a clouding of the solution. The solution was then stirred at room temperature for four hours and twenty minutes. Production of hydrogen chloride started after 15 mL (280 mmol) of concentrated sulfuric acid was placed in the additions funnel. This was added dropwise to the sodium chloride over the course of ten minutes. The reaction solution was then brought to reflux and heated overnight. The evolution of hydrogen sulfide was followed by the reaction of the effluent gas with lead acetate. The reaction flask was then cooled in an ice bath and filtered to remove the product. The flask was rinsed with approximately 300 mL of methylene chloride to collect any remaining product, this solution was dried and combined with the filtered product. The crude weight was 3.133 g, and this was placed in a vacuum desiccator for several days to remove adsorbed toluene. The dried weight was 2.837 g, giving a yield of 61.8%. NMR (CDCl3) s 1.37 ppm, s 3.47 ppm. The acid salt was neutralized in aqueous potassium hydroxide and the water was then removed by evaporation Extraction of the residue into methyl ethyl ketone yielded the free base but often with many waters of hydration. HRMS calculated 168.1501. found 168.1499. NMR (CD3OD) 2.45 (s, 4H), 1.10 (s, 12H).

reactant | hydrogen chloride | Cl | ClH
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | di-(2-aminoisobutyl)amine | 19.3 mmol, 3.073 g | NC(CNCC(C)(C)N)(C)C | C8H21N3
reactant | sodium chloride | 322 mmol, 18.8 g | [Cl-].[Na+]
reactant | Carbon disulfide | 24.8 mmol, 1.5 mL | C(=S)=S | CS2
reactant | sulfuric acid | 280 mmol, 15 mL | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen sulfide | S | H2S
reactant | lead acetate | C(C)(=O)[O-].[Pb+2].C(C)(=O)[O-]
solvent | toluene | 900 mL | C1(=CC=CC=C1)C | C7H8
solvent | potassium hydroxide | [OH-].[K+]
solvent | KOH | 1 M | [OH-].[K+]
product | 2,2,6,6-Tetramethyl-2,3,5,6-tetrahydro-1H-imidazo[1,2-a]imidazole | yield of 61.8% | CC1(NC=2N(C1)CC(N2)(C)C)C | C9H17N3
